US04430346
Into 2.5 ml of dimethylformamide, was dissolved 2.09 of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride followed by 1.7 ml of pyridine. To the solution, while being cooled in ice, was added slowly and dropwise 2.6 ml of benzoyl chloride. The mixture was stirred for 30 minutes while cooling in ice and for further two hours at room temperature. The reaction mixture was diluted with 20 ml of ice water, the separated oily layer was separated, and the aqueous layer was admixed with 600 mg of sodium chloride. The aqueous layer was passed through a column of Diaion® HP-20 which had been equilibrated with 0.5 M aqueous sodium chloride solution, and the column was washed successively with 0.5 M, 0.2 M and 0.1 M aqueous sodium chloride solutions, and with water. The fractions eluted with 20 to 40% (v/v) aqueous methanol were collected and concentrated under reduced pressure to yield 820 mg of (S)-7-guanidino-3-benzoyloxyheptanamide hydrochloride in oily form. NMR: 1.4-2.0 (CH2 x3), 2.65 (CH2), 3.17 (CH2), 5.50 (CH), 7.2-8.1 (COC6H5).

reactant | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | benzoyl chloride | 2.6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 1.7 ml | N1=CC=CC=C1 | C5H5N
product | (S)-7-guanidino-3-benzoyloxyheptanamide hydrochloride | 820 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)OC(C1=CC=CC=C1)=O | InChI=1S/C15H22N4O3.ClH/c16-13(20)10-12(8-4-5-9-19-15(17)18)22-14(21)11-6-2-1-3-7-11;/h1-3,6-7,12H,4-5,8-10H2,(H2,16,20)(H4,17,18,19);1H/t12-;/m0./s1
